US05716971
Sixty % sodium hydride (656 mg) was added, at room temperature, to a mixture of 5-bromo-2-methoxymethoxybenzyl cyanide (3.50 g), 2-chloro-3-trifluoromethylpyridine (2.48 g), sodium p-toluenesulfinate (731 mg) and DMF (35 ml), followed by stirring for 30 minutes at the same temperature under argon atmosphere. The reaction mixture was poured into an aqueous saline solution, followed by extraction with ethyl acetate. The extract solution was washed with an aqueous saline solution, dried (anhydrous sodium sulfate) and concentrated. The concentrate was purified by means of a silica gel column chromatography (eluent: ethyl acetate/hexane) to give 2-(5-bromo-α-cyano-2-methoxymethoxybenzyl)-3-trifluoromethyl-pyridine (2.63 g) (Compound D-4). The physical properties and spectrum date are shown in Table 13 and Table 14.

reactant | sodium hydride | 656 mg | [H-].[Na+]
reactant | 5-bromo-2-methoxymethoxybenzyl cyanide | 3.50 g | BrC=1C=CC(=C(CC#N)C1)OCOC | C10H10BrNO2
reactant | 2-chloro-3-trifluoromethylpyridine | 2.48 g | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | sodium p-toluenesulfinate | 731 mg | C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 2-(5-bromo-α-cyano-2-methoxymethoxybenzyl)-3-trifluoromethyl-pyridine | 2.63 g | BrC=1C=CC(=C(C(C#N)C2=NC=CC=C2C(F)(F)F)C1)OCOC | C16H12BrF3N2O2
